US07662825B2
2,3-Dichloro-N-[6-chloro-5-dimethylamino-3-methoxy-2-pyrazinyl]benzenesulphonamide
Prepared by the method of Example 67 using dimethylamine (5 mL of a 2M solution in tetrahydrofuran) and 2,3-dichloro-N-(5,6-dichloro-3-methoxy-2-pyrazinyl)-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide (0.1 g). Yield 0.015g.

reactant | dimethylamine | CNC | C2H7N
reactant | 2,3-dichloro-N-(5,6-dichloro-3-methoxy-2-pyrazinyl)-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide | 0.1 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)N(COCC[Si](C)(C)C)C1=NC(=C(N=C1OC)Cl)Cl | C17H21Cl4N3O4SSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,3-Dichloro-N-[6-chloro-5-dimethylamino-3-methoxy-2-pyrazinyl]benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC(=C(N=C1OC)N(C)C)Cl | C13H13Cl3N4O3S
